US06242443B1
6-Chloro-3-hexylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
The title compound was prepared from 2-amino-4-chlorobenzenesulfonamide and hexyl isothiocyanate by a method analogous to the one described in Example 4; m.p. 244-247° C. (ethyl acetate); 1H-NMR (DMSO-d6): δ 0.88 (distorted t, 3H, CH3), 1.31 (m, 6H, 3×CH2), 1.53 (m, 2H, CH2), 3.22 (q, 2H, NHCH2), 7.2-7.4 (m, 3H, ArH+NH), 7.68 (d, 1H, ArH), 10.55 (br.s, 1H, NH); MS: m/e 315/317 (M+); (C13H18N3Cl1O2S1) caic. C, 49.44; H, 5.74 N, 13.31; found C, 49.59; H, 6.01; N, 13.25.

reactant | 2-amino-4-chlorobenzenesulfonamide | NC1=C(C=CC(=C1)Cl)S(=O)(=O)N | C6H7ClN2O2S
reactant | hexyl isothiocyanate | C(CCCCC)N=C=S | C7H13NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-3-hexylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC=1C=CC2=C(NC(=NS2(=O)=O)NCCCCCC)C1 | C13H18ClN3O2S
